US08497264B2
Crude (S)-5-amino-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol (0.463 g, 1.211 mmol) was dissolved in DCM (35 mL). The solution was cooled to 0° C., and TEA (0.175 mL, 1.27 mmol) was added, followed by N-(5-chloropyridin-2-yl)-1,1,1-trifluoro-N-(trifluoromethylsulfonyl)methanesulfonamide (0.427 g, 1.09 mmol). The solution was allowed to warm naturally. After 9 h, the reaction was quenched with 1 M aqueous NaOH (15 mL). The aqueous layer was separated and extracted further with 5% MeOH-DCM (3×20 mL). The organics were combined, washed with brine (7 mL), dried over sodium sulfate and concentrated. The residue was partially purified by chromatography (5% MeOH/DCM) to afford (S)-5-amino-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-7′-yl trifluoromethanesulfonate (393 mg, 0.764 mmol).

reactant | (S)-5-amino-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol | 1.211 mmol, 0.463 g | NC1=N[C@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)C=2COCCC2)F)O)COC1 | C21H19FN2O4
reactant | N-(5-chloropyridin-2-yl)-1,1,1-trifluoro-N-(trifluoromethylsulfonyl)methanesulfonamide | 1.09 mmol, 0.427 g | ClC=1C=CC(=NC1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C7H3ClF6N2O4S2
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
product | (S)-5-amino-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-7′-yl trifluoromethanesulfonate | 0.764 mmol, 393 mg | FC(S(=O)(=O)OC1=CC=C2OC=3C(=CC(=CC3[C@@]3(C2=C1)COCC(=N3)N)C=3COCCC3)F)(F)F | C22H18F4N2O6S
